US09278968B2
To a solution of 5.0 g of ethyl 2,2-dimethyl-5-nitro-1,3-dioxane-5-carboxylate in 50 ml of acetic acid was added 7 g of zinc powder in four divided portions at room temperature, followed by stirring at 45° C. for 4 hours. The insoluble materials of the reaction mixture were separated by filtration and washed with chloroform. The filtrate was concentrated under reduced pressure and neutralized by the addition of a saturated aqueous sodium hydrogen carbonate solution. To a mixture formed by adding 100 ml of chloroform thereto were added 2.7 g of sodium hydrogen carbonate and 3.7 ml of benzyl chloroformate at 0° C., followed by stirring at room temperature for 2 hours. The obtained organic layer was dried over anhydrous sodium sulfate and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 6.6 g of ethyl 5-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-1,3-dioxane-5-carboxylate.

reactant | ethyl 2,2-dimethyl-5-nitro-1,3-dioxane-5-carboxylate | 5.0 g | CC1(OCC(CO1)(C(=O)OCC)[N+](=O)[O-])C | C9H15NO6
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydrogen carbonate | 2.7 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 3.7 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 7 g | [Zn] | Zn
product | ethyl 5-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-1,3-dioxane-5-carboxylate | 6.6 g | C(C1=CC=CC=C1)OC(=O)NC1(COC(OC1)(C)C)C(=O)OCC | C17H23NO6
